US05250690
2-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-N-methyl-N-(4-(trifluoromethoxy)phenyl)propanamide
A mixture of 0.23 g (5.7 mmol) of a 60 percent NaH/oil dispersion and 10 ml of hexane was stirred under N2 for 10 minutes. The hexane was decanted off, replaced with 20 ml of DMF and a solution of 2.0 g (4.1 mmol) of 2-(4-((6-fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide in 20 ml of DMF was added dropwise over a period of 30 minutes. The mixture was stirred at ambient temperature for 1.5 hours when a solution of 1.45 g (10 mmol) of methyl iodide in 10 ml of DMF was slowly added. The mixture was stirred at ambient temperature for 2 days and then quenched by cautious addition of a few drops of acetic acid and then water. The mixture was poured into water, extracted with three portions of ether and the combined organic layers dried over MgSO4 and evaporated to dryness. The residue was taken up in hot methylcyclohexane, treated with charcoal and filtered and then allowed to cool to give 1.03 g (50 percent) of the above-named product as colorless crystals, m.p. 137°-139° C. (Compound 41)

reactant | NaH | [H-].[Na+]
reactant | hexane | 10 ml | CCCCCC | C6H14
reactant | 2-(4-((6-fluoro-2-quinoxalinyl)oxy)phenoxy)-N-(4-(trifluoromethoxy)phenyl)propanamide | 4.1 mmol, 2.0 g | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C)C=C1 | C24H17F4N3O4
reactant | methyl iodide | 10 mmol, 1.45 g | CI | CH3I
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 2-(4-((6-Fluoro-2-quinoxalinyl)oxy)phenoxy)-N-methyl-N-(4-(trifluoromethoxy)phenyl)propanamide | 1.03 g, 50 percent | FC=1C=C2N=CC(=NC2=CC1)OC1=CC=C(OC(C(=O)N(C2=CC=C(C=C2)OC(F)(F)F)C)C)C=C1 | C25H19F4N3O4
